US04250176
A mixture of 6.95 parts of 1-(5-chloropentyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 5.7 parts of 1-[bis(4-fluorophenyl)methyl]piperazine, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 160 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. The reaction mixture is cooled to room temperature, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is stirred and refluxed for 30 minutes with a solution of 12 parts of a concentrated hydrochloric acid solution in 40 parts of ethanol. The solvent is evaporated and the free base is liberated in the conventional manner with a diluted ammonium hydroxide solution. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the hydrochloride salt in ethanol and 2-propanol. The salt is filtered off and dried, yielding 1-[5-{4-[bis(4-fluorophenyl)-methyl]-1-piperazinyl}pentyl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride.hydrate; mp. 203.7° C.

reactant | 1-(5-chloropentyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C15H19ClN2O
reactant | 1-[bis(4-fluorophenyl)methyl]piperazine | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[5-{4-[bis(4-fluorophenyl)-methyl]-1-piperazinyl}pentyl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(N1CCN(CC1)CCCCCN1C(NC2=C1C=CC=C2)=O)C2=CC=C(C=C2)F | InChI=1S/C29H32F2N4O.2ClH/c30-24-12-8-22(9-13-24)28(23-10-14-25(31)15-11-23)34-20-18-33(19-21-34)16-4-1-5-17-35-27-7-3-2-6-26(27)32-29(35)36;;/h2-3,6-15,28H,1,4-5,16-21H2,(H,32,36);2*1H
